US06897319B2
A 2.0 g sample of 1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-2-(1-trityl-1H-imidazol-4yl)ethanone was stirred in 50 mL of MeOH and 35 mL of 2 N HCl for 5 h. The solvent was evaporated in vacuo and the resulting residue was passed through a Biotage Flash 40L (silica gel; CH2Cl2:MeOH) to give 0.14 g of (4-chlorophenyl)-[4-(3H-imidazole-4-carbonyl)-1-methyl-1H-pyrrol-2-yl]methanone: mp.198-200° C. CI-MS m/z=314 (M++H). 1HNMR (CD3CN) δ 8.4 (ar, 1H); 7.9-7.8 (ar, 4H); 7.7 (ar, 1H); 7.6 (ar, 3H); 7.5 (ar, 1H); 4.0 (s, 3H); 2.0 (m, 2H).

reactant | 1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-2-(1-trityl-1H-imidazol-4yl)ethanone | ClC1=CC=C(C(=O)C2=CC(=CN2C)C(CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C36H28ClN3O2
reactant | HCl | 2 N, 35 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | (4-chlorophenyl)-[4-(3H-imidazole-4-carbonyl)-1-methyl-1H-pyrrol-2-yl]methanone | 0.14 g | ClC1=CC=C(C=C1)C(=O)C=1N(C=C(C1)C(=O)C=1NC=NC1)C | C16H12ClN3O2
